**** ptat voltage generation circuit *****

.lib "/home/ruthwika/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.global vdd gnd
.temp 27

*** vcvs definition
e1	net2	gnd	ra1	qp1	gain=1000
xmp1    q1	net2   	vdd	vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4
xmp2    q2    	net2    vdd     vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4
	
*** bjt definition
xqp1	gnd	gnd	qp1		sky130_fd_pr__pnp_05v5_W3p40L3p40	m=1
xqp2    gnd     gnd     qp2          sky130_fd_pr__pnp_05v5_W3p40L3p40       m=8

*** high-poly resistance definition
xra1    ra1     na1     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xra2    na1     na2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8
xra3    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8
xra4    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8

*** voltage sources for current measurement
vid1	q1	qp1	dc	0
vid2	q2	ra1	dc	0

*** supply voltage
vsup	vdd	gnd	dc 	2
.dc	temp	-40	125	5

*** control statement
.control
run
plot v(qp1) v(ra1) v(qp2) v(net2)
plot vid1#branch vid2#branch
.endc
.end

